US08633313B2
To a solution of 2-(1,3-dioxolan-2-yl)-5-fluoropyridin-3-amine (5 g, 27.14 mmol) in DMSO: H2O (1:1) (162 mL) was added lithium chloride (6.9 g, 162.89 mmol). The reaction mixture was heated to 90° C. for 16 h and water was removed using dean-stark apparatus. Water was added to the reaction mass and extracted with EtOAc. Organic layer was washed with brine and dried over Na2SO4. The organic layer was concentrated in vacuo and purified by column chromatography on silica gel using 0-40% EtOAc in hexane to give 3-amino-5-fluoropicolinaldehyde: 1H NMR (400 MHz, DMSO-d6): δ 7.003-7.037 (m, 1H), 7.387 (br s, 2H), 7.944 (d, 1H, J=2.4 Hz), 9.853 (s, 1H); LC-MS (ESI) m/z 141.0 [M+H]+.

reactant | 2-(1,3-dioxolan-2-yl)-5-fluoropyridin-3-amine | 27.14 mmol, 5 g | O1C(OCC1)C1=NC=C(C=C1N)F | C8H9FN2O2
reactant | lithium chloride | 162.89 mmol, 6.9 g | [Cl-].[Li+]
solvent | DMSO H2O | 162 mL | CS(=O)C.O
product | 3-amino-5-fluoropicolinaldehyde | NC=1C(=NC=C(C1)F)C=O | C6H5FN2O
